US08859768B2
A mixture of methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate (3.0 g, 8.3 mmol), N-[5-methyl-4-(trimethylstannyl)pyridine-2-yl]acetamide (2.8 g, 9.1 mmol), tetrakis(triphenylphosphine)palladium(0) (0.48 g, 0.41 mmol), copper(I) iodide (0.47 g, 2.5 mmol) and lithium chloride (1.1 g, 24.8 mmol) in 1,4-dioxane (80 mL) was degassed with argon three times. The mixture was allowed to stir at 100° C. under an atmosphere of argon for 2 h and then filtered while hot. The reaction mixture was concentrated to a small volume and then 10% aqueous ammonia (150 mL) was added. The mixture was filtered and the solid was washed with diethyl ether to give methyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate (2.3 g, 72%) which was used without further purification.

reactant | methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate | 8.3 mmol, 3.0 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C(=O)OC | C11H7ClINO3
reactant | N-[5-methyl-4-(trimethylstannyl)pyridine-2-yl]acetamide | 9.1 mmol, 2.8 g | CC=1C(=CC(=NC1)NC(C)=O)[Sn](C)(C)C
reactant | lithium chloride | 24.8 mmol, 1.1 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.41 mmol, 0.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 2.5 mmol, 0.47 g | [Cu]I
product | methyl 2-[2-(acetylamino)-5-methylpyridin-4-yl]-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate | 2.3 g, 72% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)OC)C1=C(C=CC=C1)Cl)C | C19H16ClN3O4
